US08039495B2
3-(2′,4′,5′-Trifluoro-biphenyl-4-yloxymethyl)-benzoic acid methyl ester (2.9 g, 7.79 mmol) and 2N KOH (15.6 mL, 31.2 mmol) in 140 mL MeOH were reacted as above to yield 2.6 g (93.2%) of 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-benzoic acid. LC-MS (ES) calculated for C20H13F3O3, 358.32; found m/z 357.1 [M−H]−.

reactant | 3-(2′,4′,5′-Trifluoro-biphenyl-4-yloxymethyl)-benzoic acid methyl ester | 7.79 mmol, 2.9 g | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)F)=O | C21H15F3O3
reactant | KOH | 31.2 mmol, 2N, 15.6 mL | [OH-].[K+]
solvent | MeOH | 140 mL | CO | CH4O
product | 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-benzoic acid | 2.6 g, 93.2% | FC1=C(C=C(C(=C1)F)F)C1=CC=C(C=C1)OCC=1C=C(C(=O)O)C=CC1 | C20H13F3O3
